US05206129
Preparation of 5-Acetylamino-3-methyl-4-nitroisothiazole
Reduced iron (2.94 grams, 50.0 mmol) and 0.30 gram of ammonium chloride were introduced into 20 ml of isopropyl alcohol and 3 ml of water, and the mixture was heated under reflux for 20 minutes. 5-Acetylamino-3-(4-chlorobenzoylmethyl)-4-nitroisothiazole (2.04 grams, 6.00 mmol) was added little by little, and the mixture was heated under reflux for 2 hours. The iron was removed by suction filtration, water was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated salt water and then dried over anhydrous sodium sulfate. After filtration, the solvent was removed by distillation under reduced pressure. The residue was dissolved in 20 ml of acetic acid and heated under reflux for 2 hours. The mixture was then poured into water and extracted with ethyl acetate. The extract was washed with aqueous bicarbonate and then with saturated salt water, and dried over anhydrous sodium sulfate. After filtration, the solvent was removed by distillation and the material was crystallized from ethyl acetate. Recovery was 1.23 gram (4.22 mmol); Yield was 70.3%; and Melting Point was 210° C.

reactant | ammonium chloride | 0.30 gram | [Cl-].[NH4+]
reactant | isopropyl alcohol | 20 ml | C(C)(C)O | C3H8O
reactant | 5-Acetylamino-3-(4-chlorobenzoylmethyl)-4-nitroisothiazole | 6.00 mmol, 2.04 grams | C(C)(=O)NC1=C(C(=NS1)CC(C1=CC=C(C=C1)Cl)=O)[N+](=O)[O-] | C13H10ClN3O4S
solvent | water | 3 ml | O | H2O
product | 5-Acetylamino-3-methyl-4-nitroisothiazole | Yield was 70.3% | C(C)(=O)NC1=C(C(=NS1)C)[N+](=O)[O-] | C6H7N3O3S
